US07087626B2
5-Chloromethyl-2,2-difluoro-benzo[1,3]dioxole
A solution of (2,2-difluoro-benzo[1,3]dioxol-5-yl)-methanol (1.0 g, 5.32 mmol) in carbon tetrachloride (10.6 mL) is added to polymer-supported triphenylphospine (3.5 g, 3 mmol/g, 10.6 mmol) at room temperature. The reaction is heated for 3 h at 80° C., cooled to room temperature, filtered, and the solids washed with dichloromethane. The filtrate is concentrated in vacuo to yield the title compound, 0.79 g (72%), as a clear, orange oil.

reactant | (2,2-difluoro-benzo[1,3]dioxol-5-yl)-methanol | 5.32 mmol, 1.0 g | FC1(OC2=C(O1)C=CC(=C2)CO)F | C8H6F2O3
reactant | triphenylphospine | 10.6 mmol, 3.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 10.6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Chloromethyl-2,2-difluoro-benzo[1,3]dioxole | ClCC1=CC2=C(OC(O2)(F)F)C=C1 | C8H5ClF2O2
